US09029536B2
A) 3-[4-(Benzyloxy)phenyl]-6-fluoro-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine
A mixture of [4-(benzyloxy)phenyl](3,5-difluoropyridin-2-yl)methanone (100 mg) and hydrazine hydrate (77 mg) in 2-propanol (5 mL) was stirred at room temperature for 30 min and at 90° C. for 12 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was dissolved in DMF (5 mL), and then Cs2CO3 (150 mg, 0.46 mmol) and 2-bromopropane (50.5 mg) were added successively. The mixture was stirred for 12 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (70.0 mg).

reactant | [4-(benzyloxy)phenyl](3,5-difluoropyridin-2-yl)methanone | 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=NC=C(C=C1F)F | C19H13F2NO2
reactant | hydrazine hydrate | 77 mg | O.NN
reactant | Cs2CO3 | 0.46 mmol, 150 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromopropane | 50.5 mg | BrC(C)C | C3H7Br
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
solvent | water | O | H2O
product | 3-[4-(Benzyloxy)phenyl]-6-fluoro-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine | 70.0 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN(C=2C1=NC=C(C2)F)C(C)C | C22H20FN3O
